* extracted by klt extract --deck sg13cmos5l

* cell vco_pfet_w10_l1
* pin VDD_VCO
.SUBCKT vco_pfet_w10_l1 VDD_VCO
* device instance $1 r0 *1 6.3,3.36 pfet
X$1 \$6 \$4 \$2 VDD_VCO sg13_hv_pmos L=1U W=10U AS=4P AD=4P PS=20.8U PD=20.8U
* device instance $2 r0 *1 18.26,3.36 pfet
X$2 \$7 \$5 \$3 VDD_VCO sg13_hv_pmos L=1U W=10U AS=4P AD=4P PS=20.8U PD=20.8U
.ENDS vco_pfet_w10_l1
