* extracted by klt extract --deck sg13cmos5l

* cell cp_pfet_w24_l1
* pin VDD
.SUBCKT cp_pfet_w24_l1 VDD
* device instance $1 r0 *1 13.3,3.36 pfet
X$1 \$6 \$2 \$3 VDD sg13_hv_pmos L=1U W=24U AS=9.6P AD=9.6P PS=48.8U PD=48.8U
* device instance $2 r0 *1 39.26,3.36 pfet
X$2 \$7 \$4 \$5 VDD sg13_hv_pmos L=1U W=24U AS=9.6P AD=9.6P PS=48.8U PD=48.8U
.ENDS cp_pfet_w24_l1
